US06329372B1
b) O-(2,6-dichlorobenzyl)-N-(4-acetyl-3,5-dimethyl-2-pyrroyl)-L-tyrosine
from O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride and 3,5-dimethyl-4-acetylpyrrole-2-carboxylic acid. Freeze drying afforded the title compound as a light cream amorphous solid (550 mg). δH (DMSO-d6) 11.56, (1H, s), 7.61 (1H, d, J 7.8 Hz), 7.51 (2H, d, J 8.0 Hz), 7.41 (1H, t, J 8.0 Hz), 7.21 (2H, d, J 85 Hz), 6.96 (2H, d, J 8.5 Hz), 5.16 (2H, s), 4.69-4.55 (1H, m), 3.12 (1H, dd, J 13.7, 4.7 Hz), 2.99 (1H, dd, J 13.7, 9.1 Hz), 2.43 (3H, s), 2.38 (3H, s), 2.31 (3H, s); m/z (ESI, 60V) 503 (MH+).

reactant | O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O
reactant | 3,5-dimethyl-4-acetylpyrrole-2-carboxylic acid | CC1=C(NC(=C1C(C)=O)C)C(=O)O | C9H11NO3
product | O-(2,6-dichlorobenzyl)-N-(4-acetyl-3,5-dimethyl-2-pyrroyl)-L-tyrosine | ClC1=C(COC2=CC=C(C[C@H](NC(=O)C=3NC(=C(C3C)C(C)=O)C)C(=O)O)C=C2)C(=CC=C1)Cl | C25H24Cl2N2O5
